US07259266B2
The (2-amino-5-chloro-3-methylphenyl)methanol (10.8 g, 63.1 mmol) was dissolved in tetrahydrofuran (20 mL). Dichloromethane (50 mL) was added along with activated carbon (16.3 g). Activated manganese dioxide (16.8 g, 189 mmol) was added and the solution stirred at 40° C. for 16 h. The solution was cooled to room temperature and vacuum filtered through a celite. The solvent was removed at reduced pressure and the 2-amino-5-chloro-3-methylbenzaldehyde (7.90 g, 46.0 mmol) obtained by recrystallization from diethyl ether/hexanes (1:10, 100 mL). HRMS m/z 169.0280; calcd 169.0294.

reactant | (2-amino-5-chloro-3-methylphenyl)methanol | 63.1 mmol, 10.8 g | NC1=C(C=C(C=C1C)Cl)CO | C8H10ClNO
reactant | Dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
catalyst | manganese dioxide | 189 mmol, 16.8 g | [O-2].[O-2].[Mn+4]
product | 2-amino-5-chloro-3-methylbenzaldehyde | 46.0 mmol, 7.90 g | NC1=C(C=O)C=C(C=C1C)Cl | C8H8ClNO
